US07820649B2
[2-Amino-5-(3,6,6-trimethylperhydro-1,4-diazepin-1-yl)benzoylamino]acetic acid tert-butyl ester (INTERMEDIATE V.44) (1.00 g, 2.56 mmol), 4-fluoro-3-methoxybenzaldehyde (414 mg, 2.69 mmol), ethanol (20 mL) and acetic acid (3 drops) were stirred overnight at reflux temperature. Solvent was evaporated under reduced pressure. The crude reaction mixture was purified by SCX with product eluted with 2N NH3/MeOH. Solvent was evaporated under reduced pressure and the product dissolved in toluene (10 mL) and water (10 mL). Potassium hexacyanoferrate (III) (8.43 g, 25.6 mmol) was added and the reaction mixture stirred vigorously overnight. The reaction was then quenched by the addition of methanol (300 mL), the mixture filtered through a celite pad and the cake washed with further methanol (200 mL). The filtrate was evaporated to dryness and purified by chromatography on silica gel with a gradient of DCM to DCM:MeOH (3:1, v/v) as eluent to afford [2-(4-fluoro-3-methoxyphenyl)-4-oxo-6-(3,6,6-trimethylperhydro-1,4-diazepin-1-yl)-4H-quinazolin-3-yl]acetic acid tert-butyl ester (INTERMEDIATE VII.12) (160 mg, 0.305 mmol, 12%).

reactant | [2-Amino-5-(3,6,6-trimethylperhydro-1,4-diazepin-1-yl)benzoylamino]acetic acid tert-butyl ester | 2.56 mmol, 1.00 g | C(C)(C)(C)OC(CNC(C1=C(C=CC(=C1)N1CC(NCC(C1)(C)C)C)N)=O)=O | C21H34N4O3
reactant | 4-fluoro-3-methoxybenzaldehyde | 2.69 mmol, 414 mg | FC1=C(C=C(C=O)C=C1)OC | C8H7FO2
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
catalyst | Potassium hexacyanoferrate (III) | 25.6 mmol, 8.43 g | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[K+].[K+].[K+].[Fe+3]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | [2-(4-fluoro-3-methoxyphenyl)-4-oxo-6-(3,6,6-trimethylperhydro-1,4-diazepin-1-yl)-4H-quinazolin-3-yl]acetic acid tert-butyl ester | 0.305 mmol, 160 mg, 12% | C(C)(C)(C)OC(CN1C(=NC2=CC=C(C=C2C1=O)N1CC(NCC(C1)(C)C)C)C1=CC(=C(C=C1)F)OC)=O | C29H37FN4O4
